US04703053
A mixture of 10.6 g (0.045 mole) of 3,5-dimethoxy-2 -benzofurancarboxylic acid, methyl ester in 80 ml of methanol is treated with 75 ml of 1.0 N aqueous sodium hydroxide solution. The new mixture is stirred at reflux for 45 minutes, cooled, and added to 750 g of ice/water. After extraction with dichloromethane, 3×300 ml) the aqueous layer is cooled in ice and acidified with glacial acetic acid to precipitate the crude product. The precipitate is filtered and washed with water to yield 9.6 g (88% crude yield) of 3,5-dimethoxy-2-benzofurancarboxylic acid. A sample recrystallized from ethyl acetate is analytically pure, mp 168° C.-dec.

reactant | 3,5-dimethoxy-2 -benzofurancarboxylic acid, methyl ester | 0.045 mole, 10.6 g | COC1=C(OC2=C1C=C(C=C2)OC)C(=O)OC | C12H12O5
reactant | sodium hydroxide | 1.0 N, 75 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 3,5-dimethoxy-2-benzofurancarboxylic acid | 9.6 g | COC1=C(OC2=C1C=C(C=C2)OC)C(=O)O | C11H10O5
